### PR TITLE
[Merged by Bors] - feat: simplification lemmas for Vector.map / Vector.mapAccumr

### PR DESCRIPTION
**Pull request by alexkeizer**
Primarily focused on folding nested applications of `mapAccumr` into a single `mapAccumr`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Vector/MapLemmas.lean [hunk 1]
```diff
@@ -0,0 +1,324 @@
...
+@[simp]
+theorem mapAccumr₂_redundant_state (f : α → β → σ → σ × γ) (s : σ) (h : ∀ a b, (f a b s).fst = s) :
+    mapAccumr₂ f xs ys s = (s, (map₂ (fun x y => (f x y s).snd) xs ys)) := by
+  induction xs, ys using revInductionOn₂ <;> simp_all
+
+/-- If `f` takes a pair of states, but always returns the same value for both elements of the
+    pair, then we can simplify to just a single element of state
+  -/
+@[simp]
+theorem mapAccumr_redundant_pair (f : α → (σ × σ) → (σ × σ) × β)
```
Comment (ChrisHughes24) [inline Mathlib/Data/Vector/MapLemmas.lean:219]: I feel like this theorem can be generalized. Are there more general conditions where you can replace the state type with a different state type, that proves this lemma as a special case?

File: Mathlib/Data/Vector/MapLemmas.lean [hunk 2]
```diff
@@ -0,0 +1,324 @@
...
+
+
+/--
+  If `f` returns the same output and next state for every value of it's first argument, then
+  `xs : Vector` is ignored, and we can rewrite `mapAccumr₂` into `map`
+-/
+@[simp]
+theorem mapAccumr₂_unused_input_left [Inhabited α] (f : α → β → σ → σ × γ)
+    (h : ∀ a b s, f default b s = f a b s) :
+    mapAccumr₂ f xs ys s = mapAccumr (fun b s => f default b s) ys s := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Vector/MapLemmas.lean:266]: I'm not sure that this is a good `simp` lemma because we have a hypothesis.

**Review by ChrisHughes24 — COMMENTED** [review]
One thing I'd like to see is that any theorem about Vectors that's proved here should also be proven for Lists, and maybe the Vector version should be a trivial consequence of the List version wherever possible.

**Comment by alexkeizer** [comment]
> One thing I'd like to see is that any theorem about Vectors that's proved here should also be proven for Lists, and maybe the Vector version should be a trivial consequence of the List version wherever possible.

I agree that these results shouldn't necessarily be just for `Vector`s, but I'm not sure moving them to `List` and duplicating is necessarily a good idea. Especially since there seems to be some wish to make `Vector` a subtype of `Array` rather than `List`. Ideally, I'd like to state them generically over some `ListLike` interface.

File: Mathlib/Data/Vector/MapLemmas.lean (hunk 1 above)
Comment (alexkeizer) [reply Mathlib/Data/Vector/MapLemmas.lean:219]: It probably can be, I'll have to think about it a bit more. I choose products in particular, because the earlier folding of nested `mapAccumr`s has a tendency to produce pairs with redundant state, so this theorem is needed to counterbalance that.

File: Mathlib/Data/Vector/MapLemmas.lean [hunk 3]
```diff
@@ -0,0 +1,324 @@
...
+namespace Vector
+
+/-!
+## Normalization
+Rewrite applications of `map` in terms of `mapAccumr` with `Unit` state
+-/
+section Norm
+
+theorem map_to_mapAccumr (xs : Vector α n) (f : α → β) :
+    map f xs = (mapAccumr (fun x _ => (⟨⟩, f x)) xs ()).snd := by
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply Mathlib/Data/Vector/MapLemmas.lean:23]: You are right. Actually, the reverse lemma is already present as `mapAccumr_redundant_state` at the bottom of the file. I'll remove these two

File: Mathlib/Data/Vector/MapLemmas.lean (hunk 1 above)
Comment (alexkeizer) [reply Mathlib/Data/Vector/MapLemmas.lean:304]: The most general way to relate two applications of `mapAccumr`, with potentially different states, is bisimulation. I've added bisimulation lemmas, and proven this result in terms of bisimulation

File: Mathlib/Data/Vector/MapLemmas.lean [hunk 4]
```diff
@@ -0,0 +1,407 @@
...
+                let r₁ := f₁ r₂.snd y s₁
+                ((r₁.fst, r₂.fst), r₁.snd)
+              )
+            xs ys (s₁, s₂);
+    (m.fst.fst, m.snd) := by
+  induction xs, ys using Vector.revInductionOn₂ generalizing s₁ s₂ <;> simp_all
+
+@[simp]
+theorem mapAccumr₂_mapAccumr₂_right_left  (f₁ : α → γ → σ₁ → σ₁ × φ)
+                                          (f₂ : α → β → σ₂ → σ₂ × γ) :
```
Comment (ChrisHughes24) [inline Mathlib/Data/Vector/MapLemmas.lean:142]:
```suggestion
theorem mapAccumr₂_mapAccumr₂_right_left  
    (f₁ : α → γ → σ₁ → σ₁ × φ) (f₂ : α → β → σ₂ → σ₂ × γ) :
```

File: Mathlib/Data/Vector/MapLemmas.lean [hunk 5]
```diff
@@ -0,0 +1,407 @@
...
+                let r₁ := f₁ x r₂.snd s₁
+                ((r₁.fst, r₂.fst), r₁.snd)
+              )
+            xs ys (s₁, s₂);
+    (m.fst.fst, m.snd) := by
+  induction xs, ys using Vector.revInductionOn₂ generalizing s₁ s₂ <;> simp_all
+
+@[simp]
+theorem mapAccumr₂_mapAccumr₂_right_right (f₁ : β → γ → σ₁ → σ₁ × φ)
+                                          (f₂ : α → β → σ₂ → σ₂ × γ) :
```
Comment (ChrisHughes24) [inline Mathlib/Data/Vector/MapLemmas.lean:155]:
```suggestion
theorem mapAccumr₂_mapAccumr₂_right_right 
    (f₁ : β → γ → σ₁ → σ₁ × φ) (f₂ : α → β → σ₂ → σ₂ × γ) :
```

File: Mathlib/Data/Vector/MapLemmas.lean [hunk 6]
```diff
@@ -0,0 +1,407 @@
...
+                let r₁ := f₁ r₂.snd x s₁
+                ((r₁.fst, r₂.fst), r₁.snd)
+              )
+            xs ys (s₁, s₂);
+    (m.fst.fst, m.snd) := by
+  induction xs, ys using Vector.revInductionOn₂ generalizing s₁ s₂ <;> simp_all
+
+@[simp]
+theorem mapAccumr₂_mapAccumr₂_left_right
+  (f₁ : γ → β → σ₁ → σ₁ × φ) (f₂ : α → β → σ₂ → σ₂ × γ) :
```
Comment (ChrisHughes24) [inline Mathlib/Data/Vector/MapLemmas.lean:129]:
```suggestion
    (f₁ : γ → β → σ₁ → σ₁ × φ) (f₂ : α → β → σ₂ → σ₂ × γ) :
```

File: Mathlib/Data/Vector/MapLemmas.lean [hunk 7]
```diff
@@ -0,0 +1,407 @@
...
+        ) xs ys (s₁, s₂)).snd) := by
+  induction xs, ys using Vector.revInductionOn₂ generalizing s₁ s₂ <;> simp_all
+
+@[simp]
+theorem map₂_map_left (f₁ : γ → β → ζ) (f₂ : α → γ) :
+    map₂ f₁ (map f₂ xs) ys = map₂ (fun x y => f₁ (f₂ x) y) xs ys := by
+  induction xs, ys using Vector.revInductionOn₂ <;> simp_all
+
+@[simp]
+theorem mapAccumr₂_mapAccumr_right (f₁ : α → γ → σ₁ → σ₁ × ζ) (f₂ : β → σ₂ → σ₂ × γ) :
```
Comment (ChrisHughes24) [inline Mathlib/Data/Vector/MapLemmas.lean:74]: I think I might have changed my mind about the use of lets. It's very unreadable right now. Maybe the lets should be reintroduced on second thoughts.

**Comment by ChrisHughes24** [comment]
bors merge
